US07205302B2
2-(4-bromobutyloxy)acetic Acid Tert-Butyl Ester
To a solution of 17.02 g of 2-(4-hydroxybutyloxy)acetic acid tert-butyl ester in 400 ml of dichloromethane, 24.04 g of triphenylphosphine and 31.78 g of carbon tetrabromide were added. After stirring at room temperature for one hour, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 16.95 g of the desired compound as a colorless oily substance.

reactant | 2-(4-hydroxybutyloxy)acetic acid tert-butyl ester | 17.02 g | C(C)(C)(C)OC(COCCCCO)=O | C10H20O4
reactant | triphenylphosphine | 24.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 31.78 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(4-bromobutyloxy)acetic Acid Tert-Butyl Ester | 16.95 g | C(C)(C)(C)OC(COCCCCBr)=O | C10H19BrO3
